US08703761B2
A mixture of 0.54 g ethyl 5-(4-fluorophenyl)-1-(2,2,2-trifluoroethyl)-1H-pyrazole-3-carboxylate (1.7 mmol) and 0.21 g lithium hydroxide monohydrate (5.09 mmol) in 5 ml THF, 5 ml MeOH, and 2 mL water was stirred at room temperature for 2 h. The reaction was acidified with 1N HCl, was extracted with methanol/dichloromethane, dried over Na2SO4 and evaporated to provide 5-(4-fluorophenyl)-1-(2,2,2-trifluoroethyl)-1H-pyrazole-3-carboxylic acid as a white solid. LCMS (method A) 289.2 (M+H), 287.3 (M−H).

reactant | ethyl 5-(4-fluorophenyl)-1-(2,2,2-trifluoroethyl)-1H-pyrazole-3-carboxylate | 1.7 mmol, 0.54 g | FC1=CC=C(C=C1)C1=CC(=NN1CC(F)(F)F)C(=O)OCC | C14H12F4N2O2
reactant | lithium hydroxide monohydrate | 5.09 mmol, 0.21 g | O.[OH-].[Li+]
reactant | water | 2 mL | O | H2O
reactant | HCl | 1N | Cl | ClH
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | MeOH | 5 ml | CO | CH4O
product | 5-(4-fluorophenyl)-1-(2,2,2-trifluoroethyl)-1H-pyrazole-3-carboxylic acid | FC1=CC=C(C=C1)C1=CC(=NN1CC(F)(F)F)C(=O)O | C12H8F4N2O2
